US05179100
11-Amino-2-benzylideneamino-4,5-dihydro-α-phenyl-2-H pyrazolo[3,4-a]acridine-5-methanol
To a warm suspension (50° C.) of 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine (26.77 g) and solid sodium hydroxide (24.9 g) in water (377 ml) was added ethanol (1133 ml). Hydroxylamine-o-sulfonic acid (34.27 g) was added in portions over 15 minutes and the reaction was cooled to room temperature. The resulting solid was filtered, washed with water, air dried, heated with excess benzaldehyde, filtered to remove insolubles, concentrated, and triturated (diethyl ether) to yield 10.32 g of a mixture of the target product and 11-amino-2-benzylideneamino-4,5-dihydro-2H-pyrazolo[3,4-a]acridine.

reactant | 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine | 26.77 g | NC=1C2=CC=CC=C2N=C2CCC3=C(C12)NN=C3 | C14H12N4
reactant | sodium hydroxide | 24.9 g | [OH-].[Na+]
reactant | ethanol | 1133 ml | C(C)O | C2H6O
reactant | Hydroxylamine-o-sulfonic acid | 34.27 g | NOS(=O)(=O)O | H3NO4S
solvent | water | 377 ml | O | H2O
product | 11-Amino-2-benzylideneamino-4,5-dihydro-α-phenyl-2-H pyrazolo[3,4-a]acridine-5-methanol | 10.32 g | NC=1C2=CC=CC=C2N=C2C(CC=3C(C12)=NN(C3)N=CC3=CC=CC=C3)C(O)C3=CC=CC=C3 | C28H23N5O
